US04226867
4'-(2-Dimethylaminoethyl)-7-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-1,1-dioxide hemisemihydrate
A mixture of 2-amino-5-chlorobenzenesulfonamide (8.0 g., 0.039 mole) and 4-(2-dimethylaminoethyl)cyclohexanone (13.5 g., 0.08 mole) in 0.6 N ethanolic HCl (110 ml.) is heated at reflux 18 hours. The solvent is evaporated at reduced pressure and the residue dissolved in water (100 ml.) and neutralized with sodium hydroxide to precipitate 4'-(2-dimethylaminoethyl)-7-chlorospiro-[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-1,1-dioxide hemisemihydrate which melts at 234°-5° C. after recrystallization from n-propanol.

reactant | 2-amino-5-chlorobenzenesulfonamide | 0.039 mole, 8.0 g | NC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | 4-(2-dimethylaminoethyl)cyclohexanone | 0.08 mole, 13.5 g | CN(CCC1CCC(CC1)=O)C | C10H19NO
solvent | HCl | 0.6 N, 110 ml | Cl | ClH
product | 4'-(2-Dimethylaminoethyl)-7-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-1,1-dioxide | CN(CCC1CCC2(CC1)NS(C1=C(N2)C=CC(=C1)Cl)(=O)=O)C | C16H24ClN3O2S
